US08703758B2
J) N-(3-{1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}-1-methylpropyl)acetamide
To a solution of N-{3-[1-(6-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]-1-methylpropyl}acetamide (0.49 g) in DMF (15 mL) were added potassium carbonate (0.41 g) and (bromomethyl)cyclopropane (0.41 g), and the mixture was stirred at 100° C. for 6 hr. The reaction mixture was allowed to cool to room temperature, and diluted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (ethyl acetate/methanol) and recrystallized from ethyl acetate/methanol to give the title compound (313 mg).

reactant | N-{3-[1-(6-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]-1-methylpropyl}acetamide | 0.49 g | OC1=CC2=C(N=C(O2)N2CCC(CC2)CCC(C)NC(C)=O)C=C1 | C18H25N3O3
reactant | potassium carbonate | 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)cyclopropane | 0.41 g | BrCC1CC1 | C4H7Br
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-{1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}-1-methylpropyl)acetamide | 313 mg | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)CCC(C)NC(C)=O)C=C1 | C22H31N3O3
